2155-04-13 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No events
   - plan for IP to take to take to bronchoscopy on [**2155-4-13**]
   No SOB.
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2155-4-13**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 71 (58 - 72) bpm
   BP: 146/49(74) {100/39(57) - 152/61(76)} mmHg
   RR: 16 (11 - 17) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
                  Total In:
                                                                  1,270 mL
                  PO:
                                                                  1,270 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    690 mL
   Urine:
                                                                  1,395 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -690 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   PEEP: 7 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 8.5 L/min
   Physical Examination
   Gen: Comfortable, NAD, breathing comfortably
   HEENT: NCAT, sclerae anicteric. MMM.  Tracheostomy tube in place
   Pulm: CTAB no rales/rhonchi/wheezes
   CVS: RRR with normal S1 and s2. No m/g/r
   Abd: Soft/NT/ND
   Ext: no c/c/e
   Labs / Radiology
   233 K/uL
   10.4 g/dL
   247 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.6 mEq/L
   54 mg/dL
   105 mEq/L
   138 mEq/L
   31.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2155-4-11**]  11:39 PM
                             [**2155-4-12**]  09:53 AM
                             [**2155-4-13**]  04:00 AM
   WBC
   10.6
   12.1
   Hct
   31.0
   31.3
   Plt
   254
   233
   Cr
   2.2
   2.5
   TCO2
   31
   Glucose
   189
   247
   Other labs: PT / PTT / INR:11.5/25.8/1.0,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Urine CX:  NGTD
   Sputum: Gram positive cocci in pairs and clusters
 moderate growth
   coag + staph aureus
   Blood CX: NGTD
   Assessment and Plan
   72 y/o M with history of CAD, CABG, DMII, HTN, with tracheal Y stent
   with external fixation presenting with acute shortness of breath,
   likely mechanical from shifting of stent.
   .
   # Dyspnea/stridor: Initial dyspnea in this patient could be
   multifactorial, with contributions from stent migration (patient has
   had similar complications in the past), infection/PNA, aspiration, or
   pulmonary edema. The sudden-onset dyspnea that the patient experienced
   most likely relates to the collapse of the left lung seen on imaging
   from the OSH. This event may also have been related to stent
   displacement occluding the left mainstem bronchus or to mucous
   plugging, bronchomalacia, or other mechanical event. This problem seems
   to have been corrected following intubation, as CXR here shows
   generally clear lungs although there appears to be a L-sided effusion
   or ? partial collapse obscuring the left heart border. Patient has a
   history of CAD and is s/p CABG, although last echo shows normal LVEF
   and no overt evidence of CHF. Stridor suggests upper airway
   constriction, which could be related to underlying
   stenosis/post-surgical changes or to upward migration of the stent
   (perhaps less likely with Y-stent).
   - NPO overnight for bronchoscopy in AM
   - Monitor respiratory status while intubated
   - Albuterol MDI (instead of nebs, given intubated) standing TID
   - Fluticasone 50mcg 2 sprays each nostril twice daily
   - Gabapentin 100mg three times daily
   - Singlulair 10mg daily
   - Hold Tussin for now as patient may need strong cough to clear
   secretions
   - Hold Mucomyst nebs for now to minimize risk of bronchospasm
   - Re-eval after bronchoscopy
   .
   # Leukocytosis: Patient has mild leukocytosis with elevated PMNs but no
   bands. This is possibly secondary to inflammation induced by ? stent
   displacement vs. underlying infection (pulmonary source most likely).
   Patient is currently afebrile.
   - Trend WBC count, temp curve
   - sputum with coag + staph and increased secretions, will cover with
   antibiotics Vancomycin for a likely short course of abx
   - Trend CXR
   - f/u culture data
   .
   # Chronic renal failure: Creatinine at trending up from baseline of 2.1
   to 2.5 today
   - Trend Cr
   - Renally dose meds, avoid nephrotoxins
   .
   # Anemia: Likely secondary to chronic disease/renal insufficiency.
   Patient takes Procrit injections as outpatient. Hct currently above
   baseline of 27-30, which may indicate hemoconcentration.
   - Continue to trend
   .
   # Microscopic hematuria: Patient has had similar findings on multiple
   prior U/A's. Could relate to placement of Foley (traumatic) but cannot
   exclude underlying bladder pathology. Review shows large blood but
   minimal RBCs, ?hemo/myoglobinuria. CK normal and normal coags.
   .
   # Diabetes Mellitus Type II: stable
   - Continue home regimen of Glargine 18 units AM and humalog insulin
   .
   # CAD: denies curreny chest pain. EKG at baseline. continue home meds
   - Amlodipine 10mg daily
   - Metoprolol tartrate 50mg twice daily
   - Simvastatin 80mg daily
   .
   # HTN: Well-controlled.
   - Amlodipine 10mg daily
   - Lasix 40mg daily
   .
   # Asthma: as above
   - Continue fluticasone, singulair, mucomyst and albuterol nebs prn
   - Hold fexofenadine during this admission (loratadine not formulary)
   .
   # Insomnia:
   - Will start with home trazodone
   - Consider Ativan if pt unable to sleep (per his request)
   .
   FEN: NPO for now, replete electrolytes prn, IVF boluses
   Ppx: Pneumoboots
   CODE: Full (confirmed with patient)
   Contact: [**Name (NI) **]
   HCP: [**Name (NI) **] son [**Name (NI) 214**] [**Telephone/Fax (1) 12506**]
   [**Name2 (NI) **]osition: Adnit to ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-12**] 02:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-04-13 10:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: acute collapse left lung, resp distress, ? stent
   migration
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -pt notes sig secretions otherwise feels improved
   -for IP procedure today to evaluate stent, tracheostomy
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-13**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 64 (60 - 72) bpm
   BP: 135/45(67) {100/39(57) - 152/61(76)} mmHg
   RR: 22 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
                  Total In:
                                                                  1,270 mL
                  PO:
                                                                  1,270 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    915 mL
   Urine:
                                                                  1,395 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -915 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   PEEP: 7 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   233 K/uL
   247 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.6 mEq/L
   54 mg/dL
   105 mEq/L
   138 mEq/L
   31.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2155-4-11**]  11:39 PM
                             [**2155-4-12**]  09:53 AM
                             [**2155-4-13**]  04:00 AM
   WBC
   10.6
   12.1
   Hct
   31.0
   31.3
   Plt
   254
   233
   Cr
   2.2
   2.5
   TCO2
   31
   Glucose
   189
   247
   Other labs: PT / PTT / INR:11.5/25.8/1.0, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 Left lung collapse
   -resolved
   -likely mucous plugging vs. stent migration
 Stent
   -To OR today with IP to assess stent & tracheostomy site
Leukocytosis
   -no fever but does have increase in secretions
   -Coag pos staph from scx - h/o MRSA
   - start on vanc iv, tailor based on sensitivities
 DIABETES MELLITUS (DM), TYPE I
   -fsg, ssri

Chronic renal failure:
   -Creatinine trending up - 2.5 today
   - Renally dose meds, avoid nephrotoxins
 Anemia:
   -Likely secondary to CRI / ACD
   -currently above baseline hct - ? hemoconcentration
 CAD
   -cont current regimen
   -Well-controlled.
 Asthma
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-12**] 02:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2155-04-14 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2155-4-13**] 10:15 AM
   - to OR with IP and underwent stent removal; large amount of
   inflammation/necrotic tissue from button hole that eroded through
   trachea.  #7 tracheostomy tube placed.  Plan is to take patient back to
   OR in about 2 days for repeat bronch and possible stent placement.
   [From op note: stent was found distal to the endotracheal tube
   at the carina with the button inside the stent, rigid bronchoscope was
   used as well as the forceps to remove the stent. Then the flexible
   bronchoscope was used for inspection and the airways were patent except
   there was necrotic tissue obstructing the airway above the endotracheal
   tube insertion site. The barrel was used to core out and debride some
   of the necrotic tissue and the forceps was used to remove it.]
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-13**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-14**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 55 (55 - 81) bpm
   BP: 125/49(69) {114/43(60) - 154/114(119)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
                  Total In:
                                                                  1,100 mL
                                                                    400 mL
   PO:
                                                                    400 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    700 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    340 mL
   Urine:
                                                                  2,190 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,090 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 12
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 8.5 L/min
   Physical Examination
   Extremities: Feet cool; pedal pulses not palpable but can obtain right
   DP and left PT pulse by Doppler
   Neurologic: Opens eyes briefly to voice and responds but then falls
   back asleep quickly.
   HEENT: tracheostomy draining serosanguinous fluid and some thicker
   yellow secretions, tracheostomy tube in place. Lips dry.
   CV: Regular rate, rhythm, no murmur/rub/gallop
   Pulm: CTAB anteriorly with decreased breath sounds posteriorly
   Ab: non-distended, bowel sounds present, tender to palpation in
   epigastrium
   Labs / Radiology
   219 K/uL
   10.1 g/dL
   202 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.6 mEq/L
   46 mg/dL
   109 mEq/L
   139 mEq/L
   31.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2155-4-11**]  11:39 PM
                             [**2155-4-12**]  09:53 AM
                             [**2155-4-13**]  04:00 AM
                             [**2155-4-14**]  03:15 AM
   WBC
   10.6
   12.1
   10.0
   Hct
   31.0
   31.3
   31.3
   Plt
   [**Telephone/Fax (3) 12561**]
   Cr
   2.2
   2.5
   2.2
   TCO2
   31
   Glucose
   189
   247
   202
   Other labs: PT / PTT / INR:11.5/25.8/1.0, Differential-Neuts:76.0 %,
   Lymph:14.4 %, Mono:5.5 %, Eos:4.0 %, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.4 mg/dL
   [**4-13**] urine lytes
 Na 56, Cr 60, osms 469
   [**4-12**] sputum culture
 4+ GPC, moderate growth Staph aureus
   [**4-11**] urine cx
 final
 ngtd
   [**4-11**] blood cx
 pending
   Cxr [**4-14**] - pending
   Assessment and Plan
   72 y/o M with history of CAD, CABG, DMII, HTN, with tracheal Y stent
   with external fixation presenting with acute shortness of breath,
   likely mechanical from shifting of stent, now s/p stent removal by IP
   on [**4-13**].
   .
   # Dyspnea/stridor: Initial dyspnea in this patient may be
   multifactorial, with contributions from stent migration (patient has
   had similar complications in the past), infection/PNA, aspiration, or
   pulmonary edema. The sudden-onset dyspnea that the patient experienced
   most likely relates to the collapse of the left lung seen on imaging
   from the OSH. This event may also have been related to stent
   displacement occluding the left mainstem bronchus or to mucous
   plugging, bronchomalacia, or other mechanical event. This problem seems
   to have been corrected following intubation, as CXR here shows
   generally clear lungs although there appears to be a L-sided effusion
   or ? partial collapse obscuring the left heart border. Patient has a
   history of CAD and is s/p CABG, although last echo shows normal LVEF
   and no overt evidence of CHF. Stridor suggests upper airway
   constriction, which could be related to underlying
   stenosis/post-surgical changes or to upward migration of the stent.
   Rigid bronchoscopy on [**4-13**] showed stent migration, and the stent was
   removed; necrotic tissue at the buttonhole was debrided.
   - Plan to return to OR for repeat bronch and possible stent placement
   (will confirm timing with IR)
   - Monitor respiratory status while intubated
 currently off ventilator
   on trach mask, doing well
   - Albuterol MDI (instead of nebs, given intubated) standing TID
   - Fluticasone 50mcg 2 sprays each nostril twice daily
   - Gabapentin 100mg three times daily
   - Singlulair 10mg daily
   - Hold Tussin for now as patient may need strong cough to clear
   secretions
   - Hold Mucomyst nebs for now to minimize risk of bronchospasm
   .
   # Leukocytosis: Patient has mild leukocytosis with elevated PMNs but no
   bands. This is possibly secondary to inflammation induced by ? stent
   displacement vs. underlying infection (pulmonary source most likely).
   Patient is currently afebrile.
   - Trend WBC count, temp curve
   - sputum with coag + staph and increased secretions, will cover with
   antibiotics (Vancomycin 1000 mg Q48h, day 1 = [**4-13**]) for a likely short
   course of abx
   - Trend CXR
   - f/u culture data (urine finalized without growth; blood cx prelim
   NGTD)
   .
   # Chronic renal failure: Creatinine trending up from baseline of 2.1 to
   2.5 yesterday, now 2.2
   - Trend Cr
   - Urine lytes with Na 56, FeNa 1.69%
   - Renally dose meds, avoid nephrotoxins
   .
   # Anemia: Likely secondary to chronic disease/renal insufficiency.
   Patient takes Procrit injections as outpatient. Hct currently above
   baseline of 27-30, which may indicate hemoconcentration.
   - Continue to trend
   .
   # Microscopic hematuria: Patient has had similar findings on multiple
   prior U/A's. Could relate to placement of Foley (traumatic) but cannot
   exclude underlying bladder pathology. Review shows large blood but
   minimal RBCs, ?hemo/myoglobinuria. CK normal and normal coags.
   .
   # Diabetes Mellitus Type II: stable; though FSG today in mid-to-upper
   200s
   - Continue home regimen of Glargine 18 units AM and humalog insulin;
   consider increasing to Glargine 20
   .
   # CAD: denies curreny chest pain. EKG at baseline. continue home meds
   - Amlodipine 10mg daily
   - Metoprolol tartrate 50mg twice daily
   - Simvastatin 80mg daily
   .
   # HTN: Well-controlled.
   - Amlodipine 10mg daily
   - Lasix 40mg daily
   .
   # Asthma: as above
   - Continue fluticasone, singulair, and albuterol nebs prn; hold
   mucomyst for now as above
   - Hold fexofenadine during this admission (loratadine not formulary)
   .
   # Insomnia:
   - Will start with home trazodone
   - Consider Ativan if pt unable to sleep (per his request)
   .
   FEN: Clear liquids for now, will ADAT (pending IP recs for no further
   procedure today), replete electrolytes prn, IVF boluses prn until
   taking in more fluids by mouth
   Ppx: Pneumoboots, restart subQ heparin
   CODE: Full (confirmed with patient)
   Contact: [**Name (NI) **]
   HCP: [**Name (NI) **] son [**Name (NI) 214**] [**Telephone/Fax (1) 12506**]
   [**Name2 (NI) **]osition: Admit to ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-12**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-04-14 11:10:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo man with CAD, CABG, DM, and HTN.  TBM with Y-stent. - has had it
   replaced for migration.
   Presented wtih SOB, left lung with out.  Bronch yesterday with stent
   removal.
   24 Hour Events:
 OR SENT - At [**2155-4-13**] 10:15 AM
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-13**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   flovent
   gabapentin
   simvastatin
   lopressor
   lasix
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2155-4-14**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 63 (52 - 81) bpm
   BP: 136/52(72) {114/43(60) - 154/114(119)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,100 mL
                                                                    400 mL
   PO:
                                                                    400 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    700 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    480 mL
   Urine:
                                                                  2,190 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,090 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 390 (390 - 390) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI: 12
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, cool feet
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   219 K/uL
   202 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.6 mEq/L
   46 mg/dL
   109 mEq/L
   139 mEq/L
   31.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2155-4-11**]  11:39 PM
                             [**2155-4-12**]  09:53 AM
                             [**2155-4-13**]  04:00 AM
                             [**2155-4-14**]  03:15 AM
   WBC
   10.6
   12.1
   10.0
   Hct
   31.0
   31.3
   31.3
   Plt
   [**Telephone/Fax (3) 12561**]
   Cr
   2.2
   2.5
   2.2
   TCO2
   31
   Glucose
   189
   247
   202
   Other labs: PT / PTT / INR:11.5/25.8/1.0, Differential-Neuts:76.0 %,
   Lymph:14.4 %, Mono:5.5 %, Eos:4.0 %, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.4 mg/dL
   Assessment and Plan
   Respiratory distress:  due to stent migration.  Now with removal s/p
   trach breating comfortably on Trach collar.
   Leukocytosis:  WBC stable. Sputum with coag + staph.  On vanco
   Chronic renal failure:  Creatinine stable.
   DM. Increase glargine and SSI.
   ICU Care
   Nutrition:
   Comments: NPO pending procedure
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-12**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes